US09371327B2
Step 7: 6-(4-(1H-1,2,4-triazol-1-yl)benzyl)-1-isobutyl-3-methyl-5-phenoxy-1H-pyrrolo[3,4-d]pyrimidine-2,4(3H,6H)-dione
Crude 6-(4-(1H-1,2,4-triazol-1-yl)benzyl)-5-chloro-1-isobutyl-3-methyl-1H-pyrrolo[3,4-d]pyrimidine-2,4(3H,6H)-dione (12 mg, 0.029 mmol), phenol (14 mg, 0.15 mmol) and Cs2CO3 (29 mg, 0.087 mmol) are placed in a microwave vial, and then dioxane (0.25 mL) is added. The vial is sealed and heated in a Biotage microwave instrument at 150° C. for 3 h. The reaction mixture is then purified with a semi-preparative HPLC to give 8.0 mg of product as off-white solid (purity: 97%). MS (ESI) m/z 471.2 [M+H]+.

reactant | 6-(4-(1H-1,2,4-triazol-1-yl)benzyl)-5-chloro-1-isobutyl-3-methyl-1H-pyrrolo[3,4-d]pyrimidine-2,4(3H,6H)-dione | 0.029 mmol, 12 mg | N1(N=CN=C1)C1=CC=C(CN2C=C3N(C(N(C(C3=C2Cl)=O)C)=O)CC(C)C)C=C1 | C20H21ClN6O2
reactant | phenol | 0.15 mmol, 14 mg | C1(=CC=CC=C1)O | C6H6O
reactant | Cs2CO3 | 0.087 mmol, 29 mg | C(=O)([O-])[O-].[Cs+].[Cs+]
solvent | dioxane | 0.25 mL | O1CCOCC1 | C4H8O2
product | 6-(4-(1H-1,2,4-triazol-1-yl)benzyl)-1-isobutyl-3-methyl-5-phenoxy-1H-pyrrolo[3,4-d]pyrimidine-2,4(3H,6H)-dione | 8.0 mg | N1(N=CN=C1)C1=CC=C(CN2C=C3N(C(N(C(C3=C2OC2=CC=CC=C2)=O)C)=O)CC(C)C)C=C1 | C26H26N6O3
